* Z:\home\grzegorz\git\ARTY_Z7\AD4030\Hardware\AD4030-Voltage\sim\AD4030-Voltage.asc
R1 N002 N001 2Meg tol=0.1 pwr=0.25
C1 N002 N001 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R2 N003 N002 2Meg tol=0.1 pwr=0.25
C2 N003 N002 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R3 N004 N003 2Meg tol=0.1 pwr=0.25
C3 N004 N003 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R4 N005 N004 2Meg tol=0.1 pwr=0.25
C4 N005 N004 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R5 N006 N005 2Meg tol=0.1 pwr=0.25
C5 N006 N005 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
XU1 N006 P001 P002 N023 N017 N017 N011 N011 0 LT5400-1
R6 P001 N013 91 tol=1
R7 P002 N016 91 tol=1
R8 N028 N027 2Meg tol=0.1 pwr=0.25
C6 N028 N027 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R9 N029 N028 2Meg tol=0.1 pwr=0.25
C7 N029 N028 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R10 N030 N029 2Meg tol=0.1 pwr=0.25
C8 N030 N029 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R11 N031 N030 2Meg tol=0.1 pwr=0.25
C9 N031 N030 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R12 N023 N031 2Meg tol=0.1 pwr=0.25
C10 N023 N031 10p V=630 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM31A5C2J100JX01" type="C0G"
R13 N013 0 50 tol=1
R14 N016 0 50
V1 N001 N027 SINE(0 1 1000)
C11 N006 0 330p V=50 Irms=0 Rser=0.0873 Lser=449p mfg="Würth Elektronik" pn="885012007060 WCAP-CSGP 0805" type="NP0"
C12 N006 0 120p V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM1555C1H121JA16" type="C0G"
R15 N006 N014 1Meg tol=1 pwr=0.1
V2 P5V 0 5
V3 N5V 0 -5
R16 N007 N006 510 tol=1 pwr=0.1
C13 N006 0 36p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM0335C1E360JA16" type="C0G"
R17 P5V P003 7.5K tol=1 pwr=0.1
R18 P003 N014 5k tol=1 pwr=0.1
R19 N014 P004 5k tol=1 pwr=0.1
R20 P004 N5V 7.5K tol=1 pwr=0.1
C14 N014 0 0.1µ V=50 Irms=950m Rser=0.0765605 Lser=0 mfg="KEMET" pn="C2220C104K5RAC" type="X7R"
C15 N010 N009 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
XU2 N007 N009 P5V N5V N008 N010 P5V ADA4817
XU3 N009 N009 N018 N018 N019 N019 N010 N010 0 LT5400-4
C16 N023 0 330p V=50 Irms=0 Rser=0.0873 Lser=449p mfg="Würth Elektronik" pn="885012007060 WCAP-CSGP 0805" type="NP0"
C17 N023 0 120p V=50 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM1555C1H121JA16" type="C0G"
C18 N023 0 36p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GCM0335C1E360JA16" type="C0G"
R22 0 N023 1Meg tol=1 pwr=0.1
R21 N034 N023 510 tol=1 pwr=0.1
C19 N019 N018 100p V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM0335C1E101JA01" type="C0G"
XU4 N034 N018 P5V N5V N020 N019 P5V ADA4817
R23 N009 N018 1.5k
R24 N009 N018 120
C20 N009 N022 470p
C21 N022 N018 10n
XU6 N008 N008 N020 N020 N021 N021 N012 N012 0 LT5400-4
XU7 N012 NC_01 NC_02 N021 N015 NC_03 NC_04 0 0 LT5400-4
XU8 0 NC_05 P5V P2V5 N037 N035 0 NC_06 N026 AD8475
V4 P2V5 0 2.5
R25 N036 N035 33
R26 N038 N037 33
C22 N036 0 560p
C23 0 N038 560p
C24 N036 N038 270p
XU5 N012 N021 P5V N5V N015 LMH6611
XU9 N015 N015 0 0 N032 N032 N024 N024 0 LT5400-4
XU11 N024 N032 P5V N5V N026 LMH6611
XU13 N024 0 N026 N032 N033 N033 N025 N025 0 LT5400-8
.tran 0.002
.lib ada4817.cir
.lib LMH6611.MOD
.lib AD8475.lib
.lib LT5400.lib
.lib Z:\home\grzegorz\git\ARTY_Z7\AD4030\Hardware\AD4030-Voltage\sim\ada4817.cir
.lib Z:\home\grzegorz\git\ARTY_Z7\AD4030\Hardware\AD4030-Voltage\sim\models\LMH6611.MOD
.backanno
.end
